Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine / Motrin / Celexa / Amitriptyline Hcl / Neurontin
 
Attending: ___.
 
Chief Complaint:
Cellulitis
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
HPI: Ms. ___ ___ yo woman with h/o of PE and s/p 
hysterectomy (___) with site infection and recently history of 
abdominal cellulitis (___) presenting with erythema, pain, and 
swelling around lower abdomen.  The pain is dull and diffuse 
across her whole abdomen and painful when she moves and with 
palpation.  Nothing relieved the pain including Tylenol so she 
presented on ___ to her NP at her clinic who did not treat at 
that time but instead discussed the option of imaging  for 
internal pathology but was concerned for adhesions. When the 
abdomen increasingly painful yesterday (___) the patient 
returned to the clinic which who sent her to the ED for 
evaluation of infection as her abdomen was now very red in 
addition to painful. She denies any trauma, known skin breaks, 
fevers, chills, nausea, vomiting, or changes to bowel habits. 
She does have fatigue of the past few months and some sweating 
within the past few days.

The patient's hysterectomy had a complicated post-operative 
course in ___ of last year due to poor wound healing 
requiring incision and drainage for a site infection that 
resolved with regular wound dressing. Notably, an abdominal CT 
in late ___ at time of last cellulitis, which the patient 
describes as similar symptoms as she currently presents with, 
was unremarkable. At that time, the cellulitis was not thought 
to be related to her prior surgery per gyn consultation and she 
responded to oral antibiotics (keflex) within ___ days.  
Notably, she has presented several times within the past month 
for vomiting with some diarrhea without any known food 
connection. She had an abdominal radiograph ordered for 
abdominal pain on ___ that was unremarkable.
.

 
Past Medical History:
1. pulmonary embolism - ___ after left knee replacement, second 
after stopping coumadin, currently anti-coagulated on couamdin. 
neg 
hypercoag eval by heme)  
2. cellulitis - treated earlier this year for abdominal 
cellulitis
3. fibroids s/p supracervical hysterectomy, repair of bowel 
serosa 
injury, cystoscopy (___)  
4. fibromyalgia - diagnosed earlier this year by PCP ___ "leg 
and back pains"
5. osteoarthritis s/p bilateral knee replacement
6. left leg nerve entrapment 
7. ectopic pregnancy  
8. depression - has seen 5 therapists within the past few years 
9. anxiety  
10. obesity  
11. sleep apnea 
12. HSV - need to confirm with patient
13. migraines
14. GERD
15. chronic lower back pain
16. 2 prior myomectomies
 
Social History:
___
Family History:
noncontributary (Father's health unknown except potential h/o 
stomach cancer; Mother living at ___ with arthritis and 
osteoporosis; Aunt recently passed at ___ ___nd heart 
disease. Children healthy; only child.)
 
Physical Exam:
Temp 97.8
BP 108/78
Pulse 83
Resp 18
O2 sat 99% ra
Gen - Alert, no acute distress 
HEENT - anicteric, mucous membranes moist 
Neck - no JVD, no cervical lymphadenopathy 
Chest - Clear to auscultation bilaterally 
CV - Normal S1/S2, RRR, no murmurs appreciated
Abd - erythema on R lower abd, marked in pen, tender to light 
palpation but no change in tenderness on deep palp. Abd o/w 
benign.
Extr - No edema. 2+ DP pulses bilaterally 
Neuro - Alert and oriented x 3
.

 
Pertinent Results:
___ 06:02PM   LACTATE-1.6
___ 05:55PM   GLUCOSE-120* UREA N-4* CREAT-0.9 SODIUM-139 
POTASSIUM-3.4 CHLORIDE-103 TOTAL CO2-25 ANION GAP-14
___ 05:55PM   estGFR-Using this
___ 05:55PM   WBC-6.3 RBC-4.40 HGB-11.9* HCT-36.8 MCV-84 
MCH-27.1 MCHC-32.5 RDW-14.6
___ 05:55PM   NEUTS-71.1* ___ MONOS-4.2 EOS-0.1 
BASOS-0.1
___ 05:55PM   PLT COUNT-254
___ 05:55PM   ___ PTT-42.9* ___
___ 06:10AM BLOOD WBC-3.7* RBC-4.04* Hgb-10.9* Hct-34.1* 
MCV-84 MCH-27.0 MCHC-32.0 RDW-14.9 Plt ___
___ 06:15AM BLOOD WBC-4.8 RBC-4.16* Hgb-11.1* Hct-34.9* 
MCV-84 MCH-26.8* MCHC-31.9 RDW-14.8 Plt ___
___ 05:55PM BLOOD WBC-6.3 RBC-4.40 Hgb-11.9* Hct-36.8 
MCV-84 MCH-27.1 MCHC-32.5 RDW-14.6 Plt ___
___ 05:55PM BLOOD Neuts-71.1* ___ Monos-4.2 Eos-0.1 
Baso-0.1
___ 06:10AM BLOOD ___
___ 06:15AM BLOOD ___ PTT-44.7* ___
___ 06:10AM BLOOD Plt ___
___ 05:55PM BLOOD ___ PTT-42.9* ___
___ 06:10AM BLOOD Glucose-111* UreaN-6 Creat-0.7 Na-139 
K-3.9 Cl-105 HCO3-26 AnGap-12
___ 05:55PM BLOOD Glucose-120* UreaN-4* Creat-0.9 Na-139 
K-3.4 Cl-103 HCO3-25 AnGap-___/P: ___ yo F p/w cellulits.
.
It is unclear why patient has developed two superficial skin 
infections over her abd within 6 months without apparent traums, 
though her body habitus does put her at risk for poor wound 
healing if there had been a minor occult skin break.  The 
patient's presentation in the ED was remarkable for vitals of 
98.9 T, 104 HR, 120/75 BP, 20 RR, 100 % O2 saturation. A outline 
was made of the erythema in the ED and the patient was 
prescribed percocet x 2 tabs, morphine 2 mg, and started on 
Unasyn 3 g iv x1. Her INR was supratherapeutic (~4) so her 
coumadin was held.
.
After admission to medicine, she was switched to an IV 
cephalosporin and her pain was managed with morphine and 
oxycodone-acetaminophen. The extent of erythema and pain 
improved overnight and she was switched to an oral antibiotics 
on ___. She remained afebrile throughout her stay without 
any concerning systemic symptoms. The border of her erythema was 
marked and monitered and continues to decrease. Her coumadin was 
held while here for supratheurapeutic levels. She will be 
restarted as an outpatient on a lowered dose (5.0mg) as it was 
recently increased (7.5mg). She was also continued on her home 
dose of anxiety and depression medications. She had a few 
elevated blood pressure measurements this morning that were 
discussed with the patient to be followed as an out-patient.
.

 
Medications on Admission:
Home medications:
Klonopin (Clonzepam) 0.5 mg bid
Seroquel (Quetiapine Fumarate) 600 mg qhs
Ambien (Zolpidem Tartate) 12.5 mg qhs
Coumadin (Warfarin )1.5 tablets of 5 mg qd 
Acyclovir 5 % Ointment 
Acetaminophen-Codeine [Tylenol-Codeine #4] 60 mg-300 mg PO q4-6h 
prn 
Albuterol 90 mcg HFA Aerosol Inhaler 
2 (Two) puff inhaled every six (6) hours as needed for cough 
 
Discharge Medications:
1. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
2. Quetiapine 200 mg Tablet Sig: Three (3) Tablet PO QHS (once a 
day (at bedtime)).  
3. Zolpidem 12.5 mg Tablet, Multiphasic Release Sig: One (1) 
Tablet, Multiphasic Release PO once a day.  
4. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
5. Cephalexin 500 mg Capsule Sig: One (1) Capsule PO Q6H (every 
6 hours) for 9 days: Started on ___ for a ___. Warfarin 5 mg Tablet Sig: One (1) Tablet PO once a day.  

1. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
2. Quetiapine 200 mg Tablet Sig: Three (3) Tablet PO QHS (once a 
day (at bedtime)).  
3. Zolpidem 12.5 mg Tablet, Multiphasic Release Sig: One (1) 
Tablet, Multiphasic Release PO once a day.  
4. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
5. Cephalexin 500 mg Capsule Sig: One (1) Capsule PO Q6H (every 
6 hours) for 9 days: Started on ___ for a ___isp:*40 Capsule(s)* Refills:*0*
6. Warfarin 5 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
1. Cellulitis
2. Elevated blood pressure

Secondary:
1. Anxiety
2. Depression

 
Discharge Condition:
Stable. Afebrile. 

 
Discharge Instructions:
You presented to the hospital with pain, redness, and swelling 
on your abdomen consistent with a skin infection. You were 
treated with antibiotics and your symptoms improved and the 
extent of infection decreased. You had 1 epidsode of elevated 
blood pressure on day of discharge that remitted when checked 1 
hour later and we discussed with you following up blood pressure 
control as an out-patient. We are holding your blood thinning 
medication (Coumadin) today but request restarting it tomorrow 
on a lowered dose (5mg). 

Please return to the hospital if you have any fevers, chills, 
chest pain, shortness of breath, worsening abdominal pain, 
vomiting, worsening rash or other concerning symptoms.
 
Followup Instructions:
___